US05162308
Preparation of methyl 2,3,5-tribromo-4-cyanopyrrole-1-carboxylate
A solution of 2,4,5-tribromopyrrole-3-carbonitrile (3.0 g, 0.091 mol) in tetrahydrofuran is treated portionwise with potassium t-butoxide (1.33 g, 0.012 mol) at room temperature, stirred for 20 minutes, treated dropwise with a solution of methyl chloroformate (1.29 g, 0.014 mol) in tetrahydrofuran, stirred for 21/2 days, poured into water and extracted with ether. The combined ether extracts are washed with brine, dried over MgSO4 and concentrated in vacuo to give a brown solid residue. The residue is recrystallized from ethyl acetate/hexanes to afford the title compound as a tan solid, 1.4 g (39.5%) mp 119.5°-122.0° C.

reactant | 2,4,5-tribromopyrrole-3-carbonitrile | 0.091 mol, 3.0 g | BrC=1NC(=C(C1C#N)Br)Br | C5HBr3N2
reactant | potassium t-butoxide | 0.012 mol, 1.33 g | CC(C)([O-])C.[K+]
reactant | methyl chloroformate | 0.014 mol, 1.29 g | ClC(=O)OC | C2H3ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 2,3,5-tribromo-4-cyanopyrrole-1-carboxylate | BrC=1N(C(=C(C1Br)C#N)Br)C(=O)OC | C7H3Br3N2O2
